US07378409B2
A solution of benzyl 2-((1S,2R,4R)-4-(tert-butylamino)-2-(hydroxymethyl)cyclohexylamino)-2-oxoethylcarbamate (4.0 g, 0.01 mol), in 30 mL of MeOH was treated with 0.5 g of 10% Pd/C and hydrogenated overnight at 55 psi. The mixture was filtered through Celite and concentrated on a rotary evaporator to give 2-amino-N-((1S,2R,4R)-4-(tert-butylamino)-2-(hydroxymethyl)cyclohexyl)acetamide as a white solid. This was used without further purification.

reactant | benzyl 2-((1S,2R,4R)-4-(tert-butylamino)-2-(hydroxymethyl)cyclohexylamino)-2-oxoethylcarbamate | 0.01 mol, 4.0 g | C(C)(C)(C)N[C@H]1C[C@H]([C@H](CC1)NC(CNC(OCC1=CC=CC=C1)=O)=O)CO | C21H33N3O4
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2-amino-N-((1S,2R,4R)-4-(tert-butylamino)-2-(hydroxymethyl)cyclohexyl)acetamide | NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)CO | C13H27N3O2
